Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fatigue, dyspnea on exertion and lightheadedness.
 
Major Surgical or Invasive Procedure:
___ - aortic valve replacement, coronary artery bypass 
grafts x2(LIMA>LAD,SVG>RCA) 
___ - Left and right heart catheterization, coronary 
angiogram left ventriculogram

 
History of Present Illness:
This ___ year old white male with known aortic stenosis is 
followed with serial echocardiograms. Most recently these 
revealed an aortic valve area of 0.7cm2, a bicuspid valve and 
LVEF of 30%. She was referred for surgical evaluation after 
recent new onset heart failure.

 
Past Medical History:
Hypertension
Noninsulin dependent diabetes mellitus
Aortic Stenosis/Aortic Insufficiency
Mitral Regurgitation
Gastroesophageal Reflux Disease
degenerative joint disease
tonsillectomy

 
Social History:
___
Family History:
Mother died of MI at ___; father died of CVA at ___

 
Physical Exam:
Admission:

Pulse:91 Resp: 20     O2 sat: 100% RA
B/P  Right: 108/63   Left: 104/65
Height: 68"   Weight: 175 lbs

General:NAD; slow to process and answer questions
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]anicteric sclera;OP unremarkable;teeth
in poor repair
Neck:  Supple [x] Full ROM [x]no JVD
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur ___ SEm radiates throughout
precordium to carotids
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
no HSM/CVA tenderness
Extremities: Warm [x], well-perfused [x]  Edema - none
Varicosities: None [x]chronic mild venous stasis brawniness 
above
ankles bil.
Neuro: Grossly intact;MAE ___ strengths;nonfocal exam; has mild
cognitive deficits
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: NP  Left: NP
___           Right: 1+  Left: 1+
Radial       Right: 2+  Left: 2+

Carotid: murmur radiates to both carotids

 
Pertinent Results:
___ ECHO
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity is moderately dilated. There is severe global 
left ventricular hypokinesis (LVEF = ___ %). The right 
ventricular cavity is mildly dilated with moderate impairment 
with focal hypokinesis of the apical free wall. The ascending 
aorta is moderately dilated. The descending thoracic aorta is 
mildly dilated. There are simple atheroma in the descending 
thoracic aorta. There are three aortic valve leaflets. The 
aortic valve leaflets are moderately thickened. There is severe 
aortic valve stenosis (valve area 0.8-1.0cm2). Moderate to 
severe (3+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. 
POSTBYPASS
The patient is receiving dobutamine at 7ucg/kg/min.
RV systolic function is improved. There is now mild RV 
hypokinesis with minimal focality. LV systolic function is 
marginally improved, LVEF ~25%. There is a well seated, well 
fumctioning bioprosthesis in the aortic position. There is a 
mild perivalvular leak. TR is now mild (1+). The remaining study 
is otherwise unchanged from prebypass. 
 
___ 06:00AM BLOOD WBC-10.0 RBC-3.42* Hgb-8.7* Hct-26.8* 
MCV-78* MCH-25.3* MCHC-32.4 RDW-16.0* Plt ___
___ 07:00AM BLOOD WBC-16.0* RBC-3.71* Hgb-9.1* Hct-29.8* 
MCV-80* MCH-24.6* MCHC-30.6* RDW-15.6* Plt ___
___ 06:00AM BLOOD Glucose-166* UreaN-26* Creat-1.1 Na-139 
K-3.5 Cl-98 HCO3-33* AnGap-12
___ 06:45PM BLOOD UreaN-31* Creat-1.1 K-3.7
___ 05:41PM BLOOD Type-ART pO2-72* pCO2-45 pH-7.37 
calTCO2-27 Base XS-0
___ 12:30PM BLOOD %HbA1c-7.6*
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for a cardiac 
catheterization in anticipation of his aortic valve surgery. His 
cardiac catheterization revealed three vessel coronary artery 
disease. Mr. ___ was worked-up in the usual preoperative 
manner and was ready for surgery. 

On ___ he was taken to the Operating Room where he 
underwent coronary artery bypass grafting to two vessels and an 
aortic valve replacement using a tissue prosthesis. (Please see 
operative note for details.) He weaned from bypass on 
Dobutamine,Propofol and Neosynephrine in stable condition. 
Postoperatively he was taken to the intensive care unit for 
monitoring. 

Over the next ___ hours he had awoke neurologically intact and 
was extubated. Pressors were weaned off and he remained stable. 
Beta blockade and aspirin were resumed. On postoperative day 
one, he was transferred to the step down unit for further 
recovery. He was gently diuresed towards his preoperative 
weight. The physical therapy service was consulted for 
assistance with his postoperative strength and mobility. 
Oxygenation remained low and a CXR revealed what appeared to be 
a large left effusion. A left lung thoracentesis was performed 
on ___ yielding 500 mL of serosanguinous fluid.  A repeat CXR 
demonstrated an elevated left diaphragm with atelectasis and 
resolution of the effusion.  His oxygenation improved and he 
felt better.

He was discharged to a rehabilitation facility for further 
recovery prior to going home.  He will continue on diuretics for 
a week as he remained above his preoperative weight.  
Arrangements were made for follow up with his cardiology, 
medical and surgical providers.
 
Medications on Admission:
Furosemide 20mg daily, citalopram 20mg daily, glipizide 5mg 
daily, metformin 1000mg daily, omeprazole 20mg daily, 
simvastatin 80mg daily, diphenoxylate-atropine 25prn-prn  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.  
6. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
8. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q4H (every 4 hours).  
11. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
12. Glipizide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
14. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day for 7 
days.  
15. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO once a day for 7 
days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
coronary aretery disease
s/p coronary artery bypass
acute systolic heart failure
Hypertension
Non insulin dependent Diabetes Mellitus
Aortic Stenosis/Aortic Insufficiency
Mitral Regurgitation
Gastroesophageal Reflux Disease
degenerative joint disease

 
Discharge Condition:
Good

 
Discharge Instructions:
Monitor wounds for signs of infection. These include redness, 
drainage or increased pain.  
Report any fever greater then 100.5. 
Report any weight gain of 2 pounds in 24 hours or 5 pounds in 1 
week. 
No lotions, creams or powders to incision. 
Shower daily,gently pat the wound dry.
No bathing or swimming for 1 month. 
Take all medications as directed. 
No driving for 1 month or while taking narcotics.. 
.
 
Followup Instructions:
___